US05099019
PREPARATION A-1 Methyl[2-(methyl-2-pyridinylamino)ethyl]amine
A mixture of N,N'-dimethylethylene-diamine (25 g) and 2-chloropyridine (1.3 g) is warmed at 85° with stirring for 18 h. The excess dimethylethylenediamine is removed by distillation at reduced pressure. The distillation residue is distributed between ethyl acetate (150 ml) and water (100 ml). The organic phase is separated, dried over sodium sulfate and the organic solvent removed under reduced pressure to give the title compound.

reactant | N,N'-dimethylethylene-diamine | 25 g | CNCCNC | C4H12N2
reactant | 2-chloropyridine | 1.3 g | ClC1=NC=CC=C1 | C5H4ClN
product | Methyl[2-(methyl-2-pyridinylamino)ethyl]amine | CNCCN(C1=NC=CC=C1)C | C9H15N3
